* source PRE-AMP-DISCRET
Q_Q2         N14882 N14843 N14925 BC860C 
Q_Q3         N14886 N14886 N14890 BC850C 
Q_Q4         N14886 N15624 N14921 BC860C 
Q_Q5         N14882 N14886 N14894 BC850C 
R_R1         N15026 N14894  68 TC=0,0 
R_R2         N15026 N14890  68 TC=0,0 
R_R3         0 N14843  22k TC=0,0 
C_C1         N14836 N14843  2.2u  TC=0,0 
V_V1         0 N15026 15Vdc
V_V2         N15457 0 15Vdc
R_R4         N14925 N14929  100 TC=0,0 
R_R5         N14921 N14929  100 TC=0,0 
Q_Q6         N14929 N15417 N15453 BC860C 
R_R6         N15453 N15457  150 TC=0,0 
D_D1         N15457 N15469 D1N4148_1 
D_D2         N15469 N15417 D1N4148_1 
R_R7         0 N15417  22k TC=0,0 
V_V3         N14836 0  AC 0.1V
+SIN 0V 0.1V 1kHz 0 0 0
Q_Q7         0 N14882 N15214 BC850C 
Q_Q8         N15258 N15214 N15026 BC850C 
R_R8         N15026 N15214  2.2k TC=0,0 
C_C2         N14882 N15258  270p  TC=0,0 
Q_Q9         N15258 N15417 N15839 BC860C 
Q_Q10         N15369 N15417 N15835 BC860C 
Q_Q11         N15026 N15258 N15369 BC860C 
R_R9         N15637 N15624  22k TC=0,0 
C_C3         0 N15637  100u  TC=0,0 
R_R10         N15624 N15369  22k TC=0,0 
R_R11         N15835 N15457  68 TC=0,0 
R_R12         N15839 N15457  68 TC=0,0 
C_C4         N15624 N15369  4.7p  TC=0,0 
